US07745475B2
3-[5-Chloro-2-fluoro-4-(methylsulfonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Potassium carbonate (1.00 g) was added to a solution of 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (1.41 g) and 1-chloro-4,5-difluoro-2-(methylsulfonyl)benzene (0.79 g) in NMP (20 mL). The mixture was heated to 115° C. for 3.5 hours and left to cool before being poured into water (300 mL) and extracted with ethyl acetate (2×150 mL). The combined organics were washed with water, brine and dried (MgSO4) before evaporation in vacuo. Chromatography on silica, eluting with 0 to 10% methanol in ethyl acetate, afforded the desired compound (0.86 g)

reactant | Potassium carbonate | 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.41 g | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C14H17N3O4
reactant | 1-chloro-4,5-difluoro-2-(methylsulfonyl)benzene | 0.79 g | ClC1=C(C=C(C(=C1)F)F)S(=O)(=O)C | C7H5ClF2O2S
reactant | water | 300 mL | O | H2O
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 3-[5-Chloro-2-fluoro-4-(methylsulfonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.86 g | ClC=1C(=CC(=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](CO)C)C1)F)S(=O)(=O)C | C21H21ClFN3O6S
